US04835164
α-[(2,6-Dimethylphenoxy)methyl]-2-piperidinemethanol hydrochloride [1:1]
A solution of α-[(2,6-dimethylphenoxy)methyl]pyridine-2-methanol hydrochloride (11.20 g, 0.04 mole) in 200 ml of methanol was hydrogenated at room temperature with 1.4 g of platinum oxide for 45 minutes. The solution was filtered and the methanol removed by rotary evaporator. Trituration with ethyl ether gave a white solid which was recrystallized from methanol-ethyl ether (and dried at 100° C. overnight) to give 7.81 g (67.5%) of white crystalline product, m.p. 178°-179° C. with decomposition.

reactant | α-[(2,6-dimethylphenoxy)methyl]pyridine-2-methanol hydrochloride | 0.04 mole, 11.20 g | Cl.CC1=C(OCC(O)C2=NC=CC=C2)C(=CC=C1)C
solvent | methanol | 200 ml | CO | CH4O
catalyst | platinum oxide | 1.4 g | [Pt]=O
product | α-[(2,6-Dimethylphenoxy)methyl]-2-piperidinemethanol hydrochloride | 7.81 g, 67.5% | Cl.CC1=C(OCC(O)C2NCCCC2)C(=CC=C1)C | InChI=1S/C15H23NO2.ClH/c1-11-6-5-7-12(2)15(11)18-10-14(17)13-8-3-4-9-16-13;/h5-7,13-14,16-17H,3-4,8-10H2,1-2H3;1H
